US06177419B1
6-(2-Hydroxy-5-methoxyphenyl)-6′-(5-allyl-2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine and 5-allyl-2-hydroxy-3-methoxyphenylboronic acid in 42% yield using method F; δH [2H6]-DMSO 13.41,(1H, s), 12.52,(1H, s), 8.38,(1H, d), 8.27,(1H, d), 8.24-8.12,(4H, m), 7.65,(1H, s), 7.52,(1H, s), 6.99,(1H, d), 6.93,(2H, m), 6.05,(1H, m), 5.14,(1h, d), 5.07,(1H, d), 3.83,(6H, s), 3.40,(2H, d).

reactant | 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)OC)O | C17H13BrN2O2
reactant | 5-allyl-2-hydroxy-3-methoxyphenylboronic acid | C(C=C)C=1C=C(C(=C(C1)B(O)O)O)OC | C10H13BO4
product | 6-(2-Hydroxy-5-methoxyphenyl)-6′-(5-allyl-2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | 42% yield | OC1=C(C=C(C=C1)OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC(=C1)CC=C)OC)O | C27H24N2O4
